US09061060B2
Preparation of (5-bromo-2-chlorophenyl)(3,5-difluoro-4-methoxyphenyl)-methanone (97c)
To a solution of (5-bromo-2-chlorophenyl)(3,5-difluoro-4-hydroxyphenyl)methanone (600 mg, 1.7 mmol) in acetone (5 mL) was added iodomethane (50 μL, 2.6 mmol) and potassium carbonate (470 mg, 3.4 mmol), and the mixture was stirred overnight at 25° C. After the volatiles were removed under reduced pressure, the residue was dissolved in ethyl acetate (30 mL), washed with brine, and concentrated to give 629 mg of crude product, which was used in the next step without further purification.

reactant | (5-bromo-2-chlorophenyl)(3,5-difluoro-4-hydroxyphenyl)methanone | 1.7 mmol, 600 mg | BrC=1C=CC(=C(C1)C(=O)C1=CC(=C(C(=C1)F)O)F)Cl | C13H6BrClF2O2
reactant | iodomethane | 2.6 mmol, 50 μL | IC | CH3I
reactant | potassium carbonate | 3.4 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (5-bromo-2-chlorophenyl)(3,5-difluoro-4-methoxyphenyl)-methanone | 629 mg | BrC=1C=CC(=C(C1)C(=O)C1=CC(=C(C(=C1)F)OC)F)Cl | C14H8BrClF2O2
